US07994185B2
N-{3-[2-(1,1-dimethylethyl)-5-(2-{[(2S)-2-hydroxypropyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 291 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (250 mg, 0.464 mmol) and (S)-(+)-1-amino-2-propanol (348 mg, 4.64 mmol), the title compound was obtained as an off white solid (40 mg, 14%). MS (ESI): 578 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.464 mmol, 250 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O2S2
reactant | (S)-(+)-1-amino-2-propanol | 4.64 mmol, 348 mg | NC[C@H](C)O | C3H9NO
product | N-{3-[2-(1,1-dimethylethyl)-5-(2-{[(2S)-2-hydroxypropyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F)C1=NC(=NC=C1)NC[C@H](C)O | C26H26F3N5O3S2
